US09260439B2
Step 5: Preparation of tert-butyl {1-[(3S)-3-{4-(2-aminopyrimidin-5-yl)-2[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidin-1-yl]-2-methyl-1-oxopropan-2-yl}carbamate
To a solution of 2-tert-butoxycarbonylamino-2-methyl-propionic acid (728 mg, 3.58 mmol) in anhydrous DMF (13.8 mL) at 0° C. was added HATU (1570 mg, 4.13 mmol) portionwise, and the mixture was stirred at 0° C. for 40 min. 5-{2-[(3S)-3-methylmorpholin-4-yl]-7-[(3S)-3-methylpyrrolidin-3-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine hydrochloride (1294 mg, 2.757 mmol) and TEA (1.92 ml, 13.8 mmol) were added and the reaction mixture was stirred at room temperature for 2 h. Water was added, the mixture was extracted with EtOAc (3 times), the combined organic layers were washed with brine, and dried over Na2SO4. The residue was purified via ISCO silica gel chromatography (40 g column) using a gradient of 0-100% EtOAc containing 10% MeOH/EtOAc to give the title compound (1247 mg, 78%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.73 (s, 2 H), 6.59 (br s, 3 H), 4.67-4.54 (m, 1 H), 4.23 (d, J=11.5 Hz, 1 H), 3.92 (d, J=14.2 Hz, 1 H), 3.83 (d, J=11.4 Hz, 1 H), 3.70-3.40 (m, 7 H), 3.22-3.05 (m, 6 H), 2.12-2.02 (m, 1 H), 1.37 (s, 9 H), 1.35 (s, 6 H), 1.31 (s, 3 H). m/z (APCI+) for C29H43N9O4 582.7 (M+H)+.

reactant | 2-tert-butoxycarbonylamino-2-methyl-propionic acid | 3.58 mmol, 728 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | HATU | 4.13 mmol, 1570 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 5-{2-[(3S)-3-methylmorpholin-4-yl]-7-[(3S)-3-methylpyrrolidin-3-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine hydrochloride | 2.757 mmol, 1294 mg | Cl.C[C@@H]1N(CCOC1)C=1N=C(C2=C(N1)N(CC2)[C@@]2(CNCC2)C)C=2C=NC(=NC2)N
reactant | Water | O | H2O
solvent | DMF | 13.8 mL | CN(C)C=O | C3H7NO
product | tert-butyl {1-[(3S)-3-{4-(2-aminopyrimidin-5-yl)-2[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-3-methylpyrrolidin-1-yl]-2-methyl-1-oxopropan-2-yl}carbamate | 1247 mg, 78% | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)[C@@]2(CN(CC2)C(C(C)(C)NC(OC(C)(C)C)=O)=O)C | C29H43N9O4
